US04673746
A mixture of 2,5-dichloro-4-(2-fluorobenzoyl)anisole (3 g) and hydroxylamine hydrochloride (1.4 g) in pyridine (25 ml) is refluxed for several hours until no ketone remains. The pyridine is removed under high vacuum and the residue diluted with water, then extracted with chloroform. The chloroform solution is dried and the chloroform removed to give a solid which is recrystallized from ether to afford (z)-2'-fluoro-2,5-dichloro-4-methoxybenzophenone oxime, mp 188° C.

reactant | 2,5-dichloro-4-(2-fluorobenzoyl)anisole | 3 g | ClC1=C(C=C(C(=C1)C(C1=C(C=CC=C1)F)=O)Cl)OC | C14H9Cl2FO2
reactant | hydroxylamine hydrochloride | 1.4 g | Cl.NO
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | (z)-2'-fluoro-2,5-dichloro-4-methoxybenzophenone oxime | FC1=C(C=CC=C1)/C(/C1=C(C=C(C(=C1)Cl)OC)Cl)=N/O | C14H10Cl2FNO2
